US08022062B2
7-Chloro-6-(3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 369, using 3-tert-butoxycarbonyl-7-chloro-6-(6-chloropyridin-3-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine and piperidine, to give the title compound as a white solid. MS (ES+) m/z: 388 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-(6-chloropyridin-3-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC=2C=NC(=CC2)Cl | C21H24Cl2N2O2S
reactant | piperidine | N1CCCCC1 | C5H11N
product | 7-Chloro-6-(3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC=1C=CC(=NC1)N1CCCCC1 | InChI=1S/C21H26ClN3S.ClH/c22-19-6-5-17-8-10-23-11-9-18(17)21(19)26-15-16-4-7-20(24-14-16)25-12-2-1-3-13-25;/h4-7,14,23H,1-3,8-13,15H2;1H
